US07888364B2
Ethyl 4-(4-chloro-3-(pyridin-2-yl)phenylcarbamoyl)benzimidate (2.0 ml of a 0.075 M methanol solution, 0.15 mmol) was treated with 3-(1H-imidazol-4-yl)propan-1-amine (27 μl, 0.23 mmol) via procedure W to afford 83 mg of 4-(N-(3-(1H-imidazol-4-yl)propyl)carbamimidoyl)-N-(4-chloro-3-(pyridin-2-yl)phenyl)benzamide. MS (Q1) 459 (M)+.

reactant | Ethyl 4-(4-chloro-3-(pyridin-2-yl)phenylcarbamoyl)benzimidate | ClC1=C(C=C(C=C1)NC(=O)C1=CC=C(C(OCC)=N)C=C1)C1=NC=CC=C1 | C21H18ClN3O2
reactant | 3-(1H-imidazol-4-yl)propan-1-amine | 0.23 mmol, 27 μl | N1C=NC(=C1)CCCN | C6H11N3
solvent | methanol | 0.075 M | CO | CH4O
product | 4-(N-(3-(1H-imidazol-4-yl)propyl)carbamimidoyl)-N-(4-chloro-3-(pyridin-2-yl)phenyl)benzamide | 83 mg | N1C=NC(=C1)CCCNC(=N)C1=CC=C(C(=O)NC2=CC(=C(C=C2)Cl)C2=NC=CC=C2)C=C1 | C25H23ClN6O
